US04735940
(aa) Method A: 29.4 g of α-bromophenylacetyl chloride were added dropwise while stirring to a solution of 23.3 g of 4,5-dihydrothieno[2,3-c]pyridine-7(6H)-thione in 630 ml of chloroform, whereby care was taken that the temperature did not exceed 25°. After 30 minutes, the mixture was treated with 25.45 g of triethylamine and stirred for an additional 3 hours. The mixture was diluted with water, the organic phase was separated, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, evaporated and the residue was chromatographed on silica gel (elution agent toluene/ethanol 95:5). There was obtained 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide (internal salt) of m.p. 225° (dec.) (from dioxane/acetonitrile).

reactant | α-bromophenylacetyl chloride | 29.4 g | BrC(C(=O)Cl)C1=CC=CC=C1 | C8H6BrClO
reactant | 4,5-dihydrothieno[2,3-c]pyridine-7(6H)-thione | 23.3 g | S1C=CC2=C1C(NCC2)=S | C7H7NS2
reactant | triethylamine | 25.45 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 630 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5,6-dihydro-3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide | [OH-].OC1=C(SC2=[N+]1CCC1=C2SC=C1)C1=CC=CC=C1 | InChI=1S/C15H11NOS2.H2O/c17-14-12(10-4-2-1-3-5-10)19-15-13-11(7-9-18-13)6-8-16(14)15;/h1-5,7,9H,6,8H2;1H2
